US04321384
1,4,5,6,7,8-Hexahydro-2,7-dimethyl-4-(2-methylphenyl)-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester
A mixture of 7.65 g. of 1-methyl-3-oxo-5-hydroxy-1,2,3,6-tetrahydropyridine, 7.2 g. of o-tolualdehyde, 6.9 g. of methyl-3-aminocrotonate (97%), 110 ml. of ethanol and 35 ml. of acetic acid was refluxed for 3 hours. The mixture was evaporated to dryness in vacuo. The residue was dissolved in dichloromethane and extracted with saturated sodium carbonate solution. The dichloromethane solution was evaporated to dryness. The residue was slurried with diethyl ether and the solid was separated by filtration. Recrystallization from ethanol afforded the title compound, m.p. 249°-252° C. dec.

reactant | 1-methyl-3-oxo-5-hydroxy-1,2,3,6-tetrahydropyridine | CN1CC(C=C(C1)O)=O | C6H9NO2
reactant | o-tolualdehyde | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | methyl-3-aminocrotonate | COC(\C=C(\C)/N)=O | C5H9NO2
reactant | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,4,5,6,7,8-Hexahydro-2,7-dimethyl-4-(2-methylphenyl)-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester | COC(=O)C1=C(NC=2CN(CC(C2C1C1=C(C=CC=C1)C)=O)C)C | C19H22N2O3
